US04147872
Similarly, 1-benzyloxy-3-(1,1-dimethyloct-2-enyl)benzene (13.5 g., 70%) is prepared from 15.75 g. (0.062 mol.) of 2-(3-benzyloxyphenyl)-2-methylpropionaldehyde and 37.5 g. (0.0899 mol.) of hexyltriphenylphosphonium bromide. The product is an oil.

reactant | 2-(3-benzyloxyphenyl)-2-methylpropionaldehyde | 0.062 mol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C=O)(C)C | C17H18O2
reactant | hexyltriphenylphosphonium bromide | 0.0899 mol | [Br-].C(CCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-benzyloxy-3-(1,1-dimethyloct-2-enyl)benzene | 13.5 g, 70% | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C(C=CCCCCC)(C)C | C23H30O
